US07531576B2
2,4,6-Trifluorobenzoic acid (148.8 mg), diphenylphosphoryl azide (223.3 mg) and triethylamine (105.1 mg) were added to benzene (8 mL) and the mixture was heated under reflux. Fifty minutes later, a solution of N-heptyl-N-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]amine (393.7 mg) in benzene (3 mL) was added to the reaction mixture, and under reflux, heating was continued. Upon elapsed time of 45 minutes after the addition of the solution, the reaction mixture was concentrated under reduced pressure. Ethyl acetate (40 mL) was added to the residue, and the resulting mixture was washed successively with 5% hydrochloric acid, water, a saturated sodium bicarbonate solution and brine (40 mL, each). The organic layer was dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column (hexane/ethyl acetate) to afford N′-heptyl-N-(2,4,6-trifluorophenyl)-N′-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]urea as a colorless amorphous mass (369.1 mg).

reactant | 2,4,6-Trifluorobenzoic acid | 148.8 mg | FC1=C(C(=O)O)C(=CC(=C1)F)F | C7H3F3O2
reactant | diphenylphosphoryl azide | 223.3 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 105.1 mg | C(C)N(CC)CC | C6H15N
reactant | N-heptyl-N-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]amine | 393.7 mg | C(CCCCCC)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H41N5
solvent | benzene | 3 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 8 mL | C1=CC=CC=C1 | C6H6
product | N′-heptyl-N-(2,4,6-trifluorophenyl)-N′-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]urea | Yield: 74% | C(CCCCCC)N(C(NC1=C(C=C(C=C1F)F)F)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H43F3N6O
